US08426447B2
To a solution of (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (60 mg, 0.146 mmol) in 5 mL of methanol was added Pd/C (5%) (156 mg, 1.462 mmol). The mixture was maintained under an atmosphere of hydrogen gas for 20 hours before being filtered through a celite plug, washing well with methanol. The filtrate was concentrated and the derived residue was purified by silical gel chromatography (12 g, 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (S)-3-(3,3-dimethylbutyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid.

reactant | (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.146 mmol, 60 mg | CC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1)(C)C | C25H22N4O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 1.462 mmol, 156 mg | [Pd] | Pd
product | (S)-3-(3,3-dimethylbutyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC(CCC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1)(C)C | C25H26N4O2
